US06498165B1
2-[(S)-1-Phenylpropylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with (S)-1-phenylpropylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 330.3 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.49 (br s, 1H); 8.38 (d, J=5.5 Hz, 1H); 7.83 (d, J=7.6 Hz, 1H); 7.27-7.44 (m, 6H); 6.77 (d, J=5.5 Hz, 1H); 5.88 (br s, 1H); 4.97 (br s, 1H); 1.97 (m, 2H); 1.03 (t, J=7.5 Hz, 3H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | (S)-1-phenylpropylamine | C1(=CC=CC=C1)[C@H](CC)N | C9H13N
product | 2-[(S)-1-Phenylpropylamino]-4-[benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](CC)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C20H19N5
